US08293768B2
Synthesis of 1-(4-methyl-5-(1H-pyrazol-3-yl)thiazol-2-yl)-3-(4-(trifluoromethyl)-benzyl)imidazolidin-2-one
To a solution of (E)-1-(5-(3-(dimethylamino)acryloyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one (0.44 g, 1.00 mmol) in ethanol (10 mL) was added hydrazine monohydrate (0.12 mL, 1.58 mmol). The reaction mixture was heated to reflux for 3 hours. The solvent was removed in vacuo, and the residue was purified by column chromatography to afford the title compound as a colorless solid in 72% yield (0.30 g): mp 212-213° C. (ethyl acetate); 1H NMR (300 MHz, CDCl3& CD3OD) δ 7.54-7.20 (m, 5H), 6.24 (s, 1H), 4.39 (s, 2H), 3.98-3.89 (m, 2H), 3.35-3.30 (m, 2H), 2.27 (s, 3H); 13C NMR (75 MHz, CDCl3 & CD3OD) δ 156.9, 155.8, 139.8, 130.2, 129.8, 129.3, 128.2, 125.6, 125.5, 122.0, 103.8, 47.2, 41.9, 41.8, 15.7; MS (ES+) m/z 408.1 (M+1).

reactant | (E)-1-(5-(3-(dimethylamino)acryloyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one | 1.00 mmol, 0.44 g | CN(/C=C/C(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)C | C20H21F3N4O2S
reactant | hydrazine monohydrate | 1.58 mmol, 0.12 mL | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(4-methyl-5-(1H-pyrazol-3-yl)thiazol-2-yl)-3-(4-(trifluoromethyl)-benzyl)imidazolidin-2-one | 72% yield | CC=1N=C(SC1C1=NNC=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C18H16F3N5OS
